US09120805B2
A solution of 849 mg (4.00 mmol) diethyl pyrazole-3,5-dicarboxylate and 1.02 g (4.00 mmol) 2-bromo-1-(4-tert-butyl-phenyl)-ethanone in 4 ml acetone is treated with 663 mg (4.80 mmol) potassium carbonate. The resulting suspension is stirred overnight at room temperature. The reaction mixture is partitioned between water and dichloromethane. The organic phase is dried over sodium sulfate and evaporated to give 1-[2-(4-tert-butyl-phenyl)-2-oxoethyl]-1H-pyrazole-3,5-dicarboxylic acid diethyl ester as light yellow foam; HPLC/MS 2.77 (A), [M+H] 387.

reactant | diethyl pyrazole-3,5-dicarboxylate | 4.00 mmol, 849 mg | N1N=C(C=C1C(=O)OCC)C(=O)OCC | C9H12N2O4
reactant | 2-bromo-1-(4-tert-butyl-phenyl)-ethanone | 4.00 mmol, 1.02 g | BrCC(=O)C1=CC=C(C=C1)C(C)(C)C | C12H15BrO
reactant | potassium carbonate | 4.80 mmol, 663 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 1-[2-(4-tert-butyl-phenyl)-2-oxoethyl]-1H-pyrazole-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=NN(C(=C1)C(=O)OCC)CC(=O)C1=CC=C(C=C1)C(C)(C)C | C21H26N2O5
